US07329686B2
b) 1,1-Dimethylethyl [(2R)-2-hydroxy-2-phenylethyl]carbamate
(R)-α-(Aminomethyl)benzenemethanol (1.70 g) and bis(1,1-dimethylethyl)carbonate (2.98 g) were dissolved in methanol (20 ml) and triethylamine (4.3 ml) added. The mixture was stirred at room temperature for 4 days and then concentrated to leave the sub-title compound as an oil (2.60 g).

reactant | (R)-α-(Aminomethyl)benzenemethanol | 1.70 g | NC[C@H](O)C1=CC=CC=C1 | C8H11NO
reactant | bis(1,1-dimethylethyl)carbonate | 2.98 g | CC(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | triethylamine | 4.3 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 ml | CO | CH4O
product | 1,1-Dimethylethyl [(2R)-2-hydroxy-2-phenylethyl]carbamate | 2.60 g | O[C@@H](CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C13H19NO3
